US06384057B1
1-Trimethylsilyloxy-1-(furan-2-yl)ethylene (1.64 g, 9.0 mmol; prepared according to J. Chem. Soc., Perkin Trans. I 1989, 1585) and CSF (0.41 g, 2.7 mmol) were added to a suspension of 3-cyclohexyl-1-(2-hydroxy-5-fluorophenyl)-2-propen-1-one on Wang resin (3.0 g, 1.8 mmol) in dimethyl sulfoxide (40 mL). The reaction mixture was heated to 70° C. for 3 h and the reaction was quenched with 10% AcOH/CH2Cl2. The resin was filtered, washed with DMF (×2) and alternating MeOH and CH2Cl2 (×5), and dried under high vacuum overnight to give 3.31 g of 3-cyclohexyl-1-(2-hydroxy-5-fluorophenyl)-5-(furan-2-yl)-1,5-pentanedione on Wang resin.

reactant | 1-Trimethylsilyloxy-1-(furan-2-yl)ethylene | 9.0 mmol, 1.64 g | C[Si](OC(=C)C=1OC=CC1)(C)C | C9H14O2Si
reactant | 3-cyclohexyl-1-(2-hydroxy-5-fluorophenyl)-2-propen-1-one | C1(CCCCC1)C=CC(=O)C1=C(C=CC(=C1)F)O | C15H17FO2
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 3-cyclohexyl-1-(2-hydroxy-5-fluorophenyl)-5-(furan-2-yl)-1,5-pentanedione | 3.31 g | C1(CCCCC1)C(CC(=O)C1=C(C=CC(=C1)F)O)CC(=O)C=1OC=CC1 | C21H23FO4
